US07160901B2
a. 3-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-nitrobenzene
5 g (23.1 mmol) of 3-methylsulphonylamino-nitrobenzene are dissolved in 50 ml of DMSO and combined with 6.5 g (58 mmol) of potassium tert. butoxide while cooling with ice. The solution thus obtained is added dropwise to a solution of 5 g (34.7 mmol) of 2-chloro-N,N-dimethyl-ethylamine in 30 ml of DMSO. The mixture is stirred for 2 hours at ambient temperature and then heated for 6 hours to 100° C. After cooling to ambient temperature 400 ml of water are added. The mixture is extracted with ethyl acetate. Water and 1 N hydrochloric acid are added to the combined organic phases until an acid reaction is obtained. The aqueous phase is washed with ethyl acetate. Then the aqueous phase is made alkaline with sodium carbonate and the product is extracted with ethyl acetate. Drying the combined organic phases over magnesium sulphate and eliminating the solvents in vacuo yields the product as a red oil.

reactant | 3-methylsulphonylamino-nitrobenzene | 23.1 mmol, 5 g | CS(=O)(=O)NC=1C=C(C=CC1)[N+](=O)[O-] | C7H8N2O4S
reactant | potassium tert. butoxide | 58 mmol, 6.5 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-N,N-dimethyl-ethylamine | 34.7 mmol, 5 g | ClCCN(C)C | C4H10ClN
reactant | water | 400 ml | O | H2O
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 3-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-nitrobenzene | CN(CCN(S(=O)(=O)C)C=1C=C(C=CC1)[N+](=O)[O-])C | C11H17N3O4S
